US04385058
4-Dimethylaminomethyl-2-hydroxymethylpyridine (13.45 g) in dichloromethane (200 ml) was added dropwise to a stirred solution of thionyl chloride (30 ml) in dichloromethane (150 ml). The resulting red mixture was stirred for 1 hour then concentrated in vacuo. The residue was treated with ether (300 ml) to yield a crystalline solid. Recrystallisation from methanol/ether (1:3) yielded 2-chloromethyl-4-dimethylaminomethylpyridine dihydrochloride (20.04 g) as an orange solid m.p. 202°-204°.

reactant | 4-Dimethylaminomethyl-2-hydroxymethylpyridine | 13.45 g | CN(C)CC1=CC(=NC=C1)CO | C9H14N2O
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-chloromethyl-4-dimethylaminomethylpyridine dihydrochloride | 20.04 g | Cl.Cl.ClCC1=NC=CC(=C1)CN(C)C | InChI=1S/C9H13ClN2.2ClH/c1-12(2)7-8-3-4-11-9(5-8)6-10;;/h3-5H,6-7H2,1-2H3;2*1H
